US04319913
Under a static nitrogen atmosphere at 0° C., a solution of n-butyllithium (7.87 g, 0.123 mol) in hexane was added to a solution of tetramethylethylenediamine (14.3 g, 0.123 mol) in 60 ml. of anhydrous cyclohexane with constant stirring. The resulting mixture was stirred for an additional 15 minutes and then cooled to -70° C. using a solid carbon dioxide-acetate bath. A solution of N-methyl-4-chloro-benzylamine (9.6 g, 0.06 mol) in 60 ml. of anhydrous cyclohexane was added to the reaction mixture to produce a suspension containing a dilithio compound. This suspension was stirred for 2 hours at 26° C. and then cooled to -70° C. using a solid carbon dioxide-acetone bath. A solution of phenylphosphonic dichloride (12.5 g, 0.064 mol) in 60 ml. of anhydrous cyclohexane was rapidly added to the suspension causing the temperature of the reaction to increase to -20° C. The reaction mixture was allowed to cool to -70° C., after which time the solid carbon dioxide-acetone bath was removed and the reaction mixture was stirred for 2.5 hours. The reaction mixture was cooled to 0° C. and then quenched with the rapid addition of 12 ml. of acetic acid. The cyclohexane was removed on a rotary evaporator, and the resulting residue was partitioned between methylene chloride and water. The layers were separated and the methylene chloride layer was dried over magnesium sulfate and concentrated in vacuo to yield a red oil. Distillation of the red oil at 180° C. and 0.25 mm yielded a yellow solid which was slurried in ether to yield 1-phenyl-2-methyl-6-chloro-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (2.2 g, 13% yield) as a pale yellow solid having a melting point of 159°-162° C. and the following analysis:

reactant | n-butyllithium | 0.123 mol, 7.87 g | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.123 mol, 14.3 g | CN(CCN(C)C)C | C6H16N2
reactant | N-methyl-4-chloro-benzylamine | 0.06 mol, 9.6 g | CNCC1=CC=C(C=C1)Cl | C8H10ClN
reactant | phenylphosphonic dichloride | 0.064 mol, 12.5 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-phenyl-2-methyl-6-chloro-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 2.2 g, 13% yield | C1(=CC=CC=C1)P1(N(CC2=C1C=C(C=C2)Cl)C)=O | C14H13ClNOP
